US05504244
The acid chloride prepared from 3-cyanophenylacetic acid (5 g) as described in Example 18 is added at once to 1-phenyloctane (5.9 g, 0.03 moles) in methylene chloride (20 ml). Anhydrous aluminium chloride (4.96 g, 0.037 moles) is added in 1 portion and the resulting mixture heated under reflux for 2 hours. The reaction mixture is cooled and poured into a mixture of ice water (200 ml) and concentrated hydrochloric acid (20 ml). The mixture is extracted with ether (3×50 ml) and the combined extracts dried over magnesium sulfate, filtered, and evaporated to dryness. The residue is chromatographed on silica gel (hexane: ether; 70:30) to yield 3-(4-n-octylphenacyl)benzonitrile (3.12 g, m.p. 59°-64° C). This nitrile is heated under reflux in a mixture of concentrated hydrochloric acid (30 g) and acetic acid (30 g) for 48 hours. The reaction mixture is diluted with water (60 ml) and extracted with ether (3×50 ml). The combined ether extracts are washed with water (50 ml) then dried over magnesium sulfate, filtered, and evaporated to dryness. The residue is recrystallized from heptane and again from aqueous ethanol to provide 3-(4-octyl-phenacyl)benzoic acid (1.5 g), m.p. 103°-110° C.

reactant | 3-cyanophenylacetic acid | 5 g | C(#N)C=1C=C(C=CC1)CC(=O)O | C9H7NO2
reactant | 1-phenyloctane | 0.03 moles, 5.9 g | C1(=CC=CC=C1)CCCCCCCC | C14H22
reactant | aluminium chloride | 0.037 moles, 4.96 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-n-octylphenacyl)benzonitrile | 3.12 g | C(CCCCCCC)C1=CC=C(C(CC=2C=C(C#N)C=CC2)=O)C=C1 | C23H27NO
